US06350774B1
Preparation of 3-[4-(1-Pyrrolidinylcarbonyl)benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene.
3-(4-Bromobenzyl)-2-[4-[2-(1-pyrrolidinyl)ethoxy]-phenyl]benzo[b]thiophene (178 mg, 0.36 mmol) was dissolved in DMF (2.0 mL) and treated with pyrrolidine (0.3 mL). The solution was purged with carbon monoxide for 5 min at 80° C. before the catalyst dichlorobis(triphenylphosphine)pallidium (10 mg) was added. The reaction mixture was allowed to stir under a balloon of carbon monoxide at 80° C. for 4 h, then diluted with brine (30 mL) and extracted with EtOAc (20 mL×3). The combined organic layers were dried with sodium sulfate and concentrated. Chromotography with Et3N:MeOH:EtOAc (5:5:90) afforded the product (16 mg) along with recovered starting material (140 mg). FDMS m/e: found 511 (M+H+); 1H NMR (CDCl3): δ 7.97 (d, 1H), 7.57 (m, 1H), 7.55 (d, 2H), 7.50 (m, 1H), 7.40 (m, 1H), 7.39 (d, 2H), 7.24 (d, 2H), 7.03 (d, 2H), 4.40 (s, 2H), 4.28 (t, 2H), 3.76 (t, 2H), 3.57 (t, 2H), 3.10 (t, 2H), 2.82 (m, 4H), 2.01 (m, 4H), 1.98 (m, 4H).

reactant | 3-(4-Bromobenzyl)-2-[4-[2-(1-pyrrolidinyl)ethoxy]-phenyl]benzo[b]thiophene | 0.36 mmol, 178 mg | BrC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C3)C=C1 | C27H26BrNOS
reactant | pyrrolidine | 0.3 mL | N1CCCC1 | C4H9N
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-[4-(1-Pyrrolidinylcarbonyl)benzyl]-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 16 mg | N1(CCCC1)C(=O)C1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=CC=C3)C=C1 | C32H34N2O2S
